US05792768
2-[4-(4-Methoxyphenyl)piperazin-1-yl methyl]benzimidazole
Potassium carbonate (2.76 g, 20 mmol) and 2-(chloromethyl)benzimidazole (1.70 g, 10 mmol) were added to a solution of 1-(4-methoxyphenyl)piperazine (1.92 g, 10 mmol) in DMF (20 ml) under a nitrogen atmosphere and the mixture was stirred overnight. The mixture was diluted with water (200 ml) and extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with water (100 ml) and brine (100 ml), dried (MgSO4) and evaporated in vacuo to give a solid which was recrystallised from toluene to give the title compound as a buff solid (731 mg, 23%). mp 214°-216° C.; (Found: C, 70.80; H, 6.82; N, 17.28. C19H22N4O requires C, 70.78; H, 6.88; N, 17.38%); δH (DMSO-d6) 2.59-2.62 (4H, m, 2×piperazinyl CH2), 3.03-3.05 (4H, m, 2×piperazinyl CH2), 3.67 (3H, s, OCH3), 3.77 (2H, s, CH2N), 6.79-6.82 (2H, m, ArH), 6.85-6.89 (2H, m, ArH), 7.10-7.17 (2H, m, ArH), 7.43 (1H, d, J 6.9 Hz, ArH), 7.55 (1H, d, J 6.9 Hz, ArH), and 12.30 (1H, brs, NH); m/z (CI+, NH3) 323 (M+1)+.

reactant | Potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(chloromethyl)benzimidazole | 10 mmol, 1.70 g | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
reactant | 1-(4-methoxyphenyl)piperazine | 10 mmol, 1.92 g | COC1=CC=C(C=C1)N1CCNCC1 | C11H16N2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | 2-[4-(4-Methoxyphenyl)piperazin-1-yl methyl]benzimidazole | COC1=CC=C(C=C1)N1CCN(CC1)CC=1NC2=C(N1)C=CC=C2 | C19H22N4O
